US03959322
To 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione (3 g) in benzene (100 cc) add polyphosphoric acid (from orthophosphoric acid, 15 g. and phosphorus pentoxide, 6 g.) and heat the mixture at 90° for 4 minutes under such reduced pressure as the need to control frothing will allow. Cool, add water, and extract the mixture with ether and ethyl acetate; isolate the product from the resulting solution to obtain the colorless crystalline 13β-methyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one (2 g), b.p. 115°-116°; ultraviolet absorption peak at 313 mμ (ε35,100).

reactant | 2-(6-m-methoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione | 3 g | COC=1C=C(C=CC1)CCCC(CCC1(C(CCC1=O)=O)C)=O | C19H24O4
reactant | water | O | H2O
solvent | benzene | 100 cc | C1=CC=CC=C1 | C6H6
product | 13β-methyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one | 2 g | C[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC)=O | C19H20O2
